Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cough, fevers, shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMH of HTN, HLD, CAD, COPD, BPH complaining of 
difficulties breathing since ___ night.  Needed to sleep 
sitting up.  Able to walk long flat distances, but has some 
DOE/chest pressure when walking up flights of stairs/lifting 
heavy objects.  Was seen at ___'s office today with fever of 
101.8 and O2 sat of 88% and sent to the ED.  Being followed by 
Cards yearly.  In the ED, 99.1 70 145/86 18 98% on NEBs.  Was 
given vanc, IV levo, steroids, nebs with improvement.  CXR 
showed bibasilar opacities c/w edema vs. PNA with possible small 
pleural effusions.  EKG showed no STEMI, but non specific wave 
changes with no EKG for comparison.  Curently denies CP, n/v, 
SOB, f/c, HA.  Complains of dry cough, no hymoptysis.
 
Past Medical History:
HTN, HLD, CAD, COPD, BPH

Echo ___ Grade 1 diastolic dysfunction, LVEF 50%

Cardiac catheterization ___ was negative for evidence 
of
obstructive coronary artery disease with only a 40% tubular LAD
lesion noted.

retinal detachment, cataracts
 
Social History:
___
Family History:
Father - ___, MI at ___ years
Mother DM

 
Physical ___:
VS 98.2 148/81 73 16 97 @ 2L
GEN Alert, oriented, no acute distress  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM Good aeration, few crackles.  Prolonged expiratory wheezes.
CV RRR normal S1/S2, no mrg
ABD soft NT ND normoactive bowel sounds, no r/g 
EXT WWP 2+ pulses palpable bilaterally, non pitting ___ edema.
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions
 
Pertinent Results:
___ 03:58PM BLOOD Lactate-1.2
___ 03:58PM BLOOD ___ pO2-133* pCO2-33* pH-7.51* 
calTCO2-27 Base XS-4 Comment-GREEN TOP
___ 07:45AM BLOOD Calcium-8.9 Phos-3.1 Mg-2.1
___ 03:50PM BLOOD CK-MB-3 cTropnT-<0.01 proBNP-1252*
___ 11:47PM BLOOD CK-MB-5 cTropnT-<0.01
___ 03:50PM BLOOD ALT-19 AST-17 AlkPhos-62 TotBili-1.4
___ 11:47PM BLOOD CK(CPK)-421*
___ 07:45AM BLOOD Glucose-143* UreaN-25* Creat-1.1 Na-145 
K-3.9 Cl-106 HCO3-31 AnGap-12
___ 03:50PM BLOOD Neuts-85.4* Lymphs-11.1* Monos-3.2 
Eos-0.1 Baso-0.2
___ 03:50PM BLOOD WBC-13.6* RBC-4.43* Hgb-13.9* Hct-42.2 
MCV-95 MCH-31.3 MCHC-32.8 RDW-14.1 Plt ___
___ 10:21PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 10:21PM URINE RBC-3* WBC-2 Bacteri-NONE Yeast-NONE 
Epi-0
**FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___  70  ___
CHEST (PORTABLE AP)Study Date of ___ 3:49 ___
IMPRESSION:  Bibasilar patchy airspace opacities, compatible 
with pneumonia.

Cardiovascular ReportECGStudy Date of ___  3:46:52 ___
 
Sinus rhythm. Baseline artifact. Left atrial abnormality. Right
bundle-branch block. No previous tracing available for 
comparison.
 
Brief Hospital Course:
diastolic acute on chronic CHF

Urged pt to stay another night.

___ with PMH of HTN, HLD, CAD, COPD, BPH complaining of 
difficulties breathing since ___ night likely caused by 
pneumonia with COPD exacerbation and possible acute on chronic 
mild diastolic heart failure..

#Pneumonia with COPD exacerbation and acute on chronic mild 
diastolic heart failure. - The patient had fevers, WBC of 13.6 
and CXR consistent with PNA.  He was given vanc, IV levo in the 
ED for his pneumonia.  He was switched to PO Levo and sent home 
with a total of 5 days for CAP.  The evening after admission, 
the patient had an abmulatory O2 sat of 92% on RA and his 
symptoms had resolved.  The patient was stable and clinically 
improved and insisted to be discharged.  He was strongly urged 
to stay one more night for observation.  UA/culture was 
negative.  EKG findings were non specific, so we ruled out acute 
MI with 2 sets of negative trops.  Pt was discharged with close 
PCP follow up. ___ pneumococcal vaccine on ___ per epic 
records.

#COPD - The patient was initially hypoxic, so steroids, and nebs 
were given for COPD exacerbation, likely caused by pneumonia.  
He was treated with nebs on the floor and given 5 days of PO 
prednisone 40 mg daily.  Home COPD medication was restarted.

#CHF - BNP elevated from 260 in ___ to 1252 consistent with 
acute on chronic mild diastolic heart failure.  The patient was 
given IV lasix 20mg, and started on his home dose the the 
following morning.  K repleated.  Not clinically volume 
overloaded.
 
FEN: cardiac diet, no IVF
PPX: HSQ, Colace/senna, ACCESS: PIV
CODE: Full  
COMMUNICATION Patient   
EMERGENCY CONTACT: Wife ___ ___     
CONSULTS - None

The patient was discharged home in good condition with PCP 
follow up.
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientAtrius.
1. Simvastatin 40 mg PO DAILY 
2. Lisinopril 30 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Furosemide 20 mg PO DAILY Start: In am 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
7. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
8. Ipratropium Bromide MDI 2 PUFF IH Q6H wheezing 
9. Nitroglycerin SL 0.4 mg SL PRN chest pain 

 
Discharge Medications:
1. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
2. Furosemide 20 mg PO DAILY 
3. Lisinopril 30 mg PO DAILY 
4. Simvastatin 40 mg PO DAILY 
5. Levofloxacin 750 mg PO Q24H Duration: 4 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0
6. PredniSONE 40 mg PO DAILY Duration: 4 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*8 
Tablet Refills:*0
7. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
8. Ipratropium Bromide MDI 2 PUFF IH Q6H wheezing 
9. Nitroglycerin SL 0.4 mg SL PRN chest pain 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia
COPD exacerbation
Mild acute on chronic diastolic heart failure exacerbation.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital for pneumonia that aggravated 
you asthma/COPD and heart failure.  We checked cardiac enzymes 
that showed you were not having a heart attack.  We treated you 
with IV antibiotics and transitioned you to oral antibiotics.  
We gave you steroids and breathing treatments.  You were able to 
be weened off of oxygen.  You are being discharged on 4 more 
days of antibiotics and steroids.  You remained afebrile during 
your time in the hospital.  We have scheduled a follow up 
appointment with your primary care physician.
 
Followup Instructions:
___